US06686352B2
a) 5,7-Dihydro-2-(1-methylethyl)-6H-pyrimido[5,4-d][1]benzazepine-6-one
Analogous to Scheme 1, from 4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione and isobutyramidine hydrochloride. Yield: 87%.

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=CC=C2)=O | C13H14N2O2
reactant | isobutyramidine hydrochloride | Cl.C(C(C)C)(=N)N
product | 5,7-Dihydro-2-(1-methylethyl)-6H-pyrimido[5,4-d][1]benzazepine-6-one | Yield: 87% | CC(C)C=1N=CC=2CC(NC3=C(C2N1)C=CC=C3)=O | C15H15N3O
